### PR TITLE
[Merged by Bors] - fix: generalize index types of `iSup` to Sort

### PR DESCRIPTION
**Pull request by eric-wieser**
This breaks a few `simp` proofs which were expecting these lemmas to apply to the data binders but not the prop binders.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Basic.lean [hunk 1]
```diff
@@ -1064,10 +1064,15 @@ theorem iInf_principal_finset {ι : Type w} (s : Finset ι) (f : ι → Set α)
...
+  rw [← iInf_plift_down, ← iInter_plift_down]
+  simpa using iInf_principal_finset Finset.univ (f <| PLift.down ·)
+
+/-- A special case of `iInf_principal` that is safe to mark `simp`. -/
 @[simp]
-theorem iInf_principal {ι : Type w} [Finite ι] (f : ι → Set α) : ⨅ i, 𝓟 (f i) = 𝓟 (⋂ i, f i) := by
-  cases nonempty_fintype ι
-  simpa using iInf_principal_finset Finset.univ f
+theorem iInf_principal' {ι : Type w} [Finite ι] (f : ι → Set α) : ⨅ i, 𝓟 (f i) = 𝓟 (⋂ i, f i) :=
+  iInf_principal _
```
Comment (eric-wieser) [inline Mathlib/Order/Filter/Basic.lean:1075]: This is a bit annoying; making `iInf_principal` `simp` breaks a few proofs and makes the linter complain about `iInf_principal_finset` just above.

**Comment by j-loreaux** [comment]
I think it's okay, the breakage is small.

bors merge
